US08110074B1
Irradiation of methyl palmitate. Methyl palmitate was dissolved in a small amount of hexane and irradiated in a quartz container (UV cuvette) at 253.7 nm in the Rayonet reactor. After 7 hours a small amount of 1-tetradecene was formed. After 24 hours a larger amount of 1-tetradecene and a corresponding isomer (to be identified but likely 2-tetradecene (CH3CH═CHCH2(CH2)9CH3) was obtained.

reactant | methyl palmitate | C(CCCCCCCCCCCCCCC)(=O)OC | C17H34O2
solvent | hexane | CCCCCC | C6H14
product | 1-tetradecene | C=CCCCCCCCCCCCC | C14H28
